US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline and 4-methoxylbenzoic acid to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-methoxybenzamide. MS (Q1) 341.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-methoxylbenzoic acid | O(C)C1=CC=C(C(=O)O)C=C1 | C8H8O3
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-methoxybenzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)OC)=O)C1=NC=CC=C1 | C19H15ClN2O2
